US05401775
To a solution of 220 mg of 1-(2-dimethylaminoethyl)-1-(3,4,5-trimethoxyphenyl)urea in a mixture of ethanol (3 ml) and diethyl ether (15 ml) was added 4N-HCl-dioxane dropwise with stirring. The resulting crystals were collected by filtration and dried under reduced pressure to provide 230 mg of 1-(2-dimethylaminoethyl)-1-(3,4,5-trimethoxyphenyl)urea hydrochloride.

reactant | 1-(2-dimethylaminoethyl)-1-(3,4,5-trimethoxyphenyl)urea | 220 mg | CN(CCN(C(=O)N)C1=CC(=C(C(=C1)OC)OC)OC)C | C14H23N3O4
reactant | HCl dioxane | Cl.O1CCOCC1
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | 1-(2-dimethylaminoethyl)-1-(3,4,5-trimethoxyphenyl)urea hydrochloride | 230 mg | Cl.CN(CCN(C(=O)N)C1=CC(=C(C(=C1)OC)OC)OC)C | InChI=1S/C14H23N3O4.ClH/c1-16(2)6-7-17(14(15)18)10-8-11(19-3)13(21-5)12(9-10)20-4;/h8-9H,6-7H2,1-5H3,(H2,15,18);1H
